data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
934,1013,[CH3:10][C:11](=[O:12])[C:13]([CH3:14])=[NH+:15][N-:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][O:2][C:3]([Cl:4])=[C:5]([O:6][CH3:7])[O:8][CH3:9]>>[CH3:1][O:2][C:3]1([Cl:4])[C:5]([O:6][CH3:7])([O:8][CH3:9])[C:13]([C:11]([CH3:10])=[O:12])([CH3:14])[NH:15][N:16]1[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,32.75851333740166,-13.818276563605568
3968,4541,[CH3:10][C:11](=[O:12])[CH:13]=[NH+:14][N-:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][CH:13]([C:11]([CH3:10])=[O:12])[NH:14][N:15]1[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,20.224050330348327,-7.1289491053292044
1953,2164,[CH3:16][C:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)=[N+:24]([CH3:25])[C-:26]([C:27]#[N:28])[C:29]#[N:30].[CH3:1][NH:2][C:3](=[O:4])[C:5]([F:6])=[C:7]([C:8](=[O:9])[NH:10][CH3:11])[C:12](=[O:13])[NH:14][CH3:15]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([F:6])[C:7]([C:8](=[O:9])[NH:10][CH3:11])([C:12](=[O:13])[NH:14][CH3:15])[C:17]([CH3:16])([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[N:24]([CH3:25])[C:26]1([C:27]#[N:28])[C:29]#[N:30],water,298.15,32.349604202516105,6.042546824973076
1051,1146,[CH3:18][C:19]([CH3:20])=[NH+:21][N-:22][C:23]#[N:24].[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][CH:12]([CH3:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([CH:12]([CH3:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[N:22]([C:23]#[N:24])[NH:21][C:19]2([CH3:18])[CH3:20],water,298.15,27.913629040175262,-24.31656159842029
5106,5796,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][N+:12](=[C:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[C-:26]([C:27]#[N:28])[C:29]#[N:30]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[N:12]([CH3:11])[C:26]2([C:27]#[N:28])[C:29]#[N:30],water,298.15,36.70684055587765,-5.575931467438881
1151,1250,[CH3:15][CH-:16][O+:17]=[C:18]([C:19]([CH3:20])=[O:21])[C:22]([CH3:23])=[O:24].[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]#[C:7][C:8]([CH3:9])([CH3:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]2=[C:7]([C:8]([CH3:9])([CH3:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[CH:16]([CH3:15])[O:17][C:18]2([C:19]([CH3:20])=[O:21])[C:22]([CH3:23])=[O:24],water,298.15,12.77850768819902,-54.86290966691335
2174,2412,[CH3:13][O:14][C:15](=[O:16])[C-:17]([N+:18]#[C:19][C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:19]([C:20]([CH3:21])=[O:22])=[N:18][C:17]3([C:15]([O:14][CH3:13])=[O:16])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,14.697111100964394,-48.97792699151294
3459,3939,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][c:12]1[nH+:13][c-:14]([CH3:15])[c:16](=[O:17])[o:18]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:12]1([CH3:11])[NH:13][C:14]2([CH3:15])[C:16](=[O:17])[O:18]1,water,298.15,28.130325013664827,-4.809371620844835
4700,5357,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([NH+:12]=[C:13]([C:14]#[N:15])[C:16](=[O:17])[O:18][CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[NH:12][C:13]1([C:14]#[N:15])[C:16](=[O:17])[O:18][CH3:19],water,298.15,32.563426817539586,-0.7257669965038519
656,716,[CH3:12][C:13]#[N+:14][C-:15]([C:16]([CH3:17])=[O:18])[C:19](=[O:20])[O:21][CH3:22].[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[CH:6]([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:15]([C:16]([CH3:17])=[O:18])([C:19](=[O:20])[O:21][CH3:22])[N:14]=[C:13]2[CH3:12],water,298.15,18.938532103838497,-38.79763567592788
4542,5182,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)=[N+:22]([CH3:23])[NH-:24]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[NH:24][N:22]([CH3:23])[C:15]2([C:13]([O:12][CH3:11])=[O:14])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,32.57465465576266,-9.88556653203148
